datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][O:29][O:30][H:31],58.19944
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([O:17][O:18])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:18][O:17][C:16]([C:15]([C:14]([H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25],85.60464
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](#[C:13][C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:14]([C:13]#[C:12][H:15])([H:16])[H:17])[H:6],29.7482
[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6]>>[C:0](=[C:1]=[O:2])([H:3])[H:4].[H:5][H:6],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])=[C:10]([C:11]([H:19])([H:20])[H:21])[H:18])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10]([C:11]([H:19])([H:20])[H:21])[H:18])[H:3],48.2415
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([C:12]([H:18])([H:19])[H:20])[C:13]([H:21])([H:22])[H:23])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([C:12]([H:18])([H:19])[H:20])[C:13]([H:21])([H:22])[H:23])[H:17])[H:4],40.4593
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][H:15],18.4096
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:10])[O:16][O:17])([H:8])[H:9])([H:5])([H:6])[H:7],-2.244716
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:8])[H:7])([H:5])[H:6],3.43088
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21],24.2254
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:15])[C:10](=[S:11])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:12])([H:13])[H:14])([S:9][H:15])[C:10](=[S:11])[H:16],126.775
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:17])([H:18])[H:19])[H:16])[H:15])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([C:8]([H:17])([H:18])[H:19])[H:16])[H:10])[H:9],78.4918
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:23])[H:7])([H:5])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:24])([H:20])([H:21])[H:22],73.6384
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10].[O:18]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:9])[H:10].[H:8][O:18],10.64828
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[O:6][O:7]>>[C:0](=[C:1]=[O:2])([H:4])[H:5].[H:3][O:6][O:7],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([O:14][O:15])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:15][O:14][C:13]([C:12]([H:16])([H:17])[H:18])([H:19])[H:20],62.3416
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[H:14])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([C:5](=[C:6]([H:16])[H:17])[H:15])[H:14],138.03
